US09169248B2
Synthesis of 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-methyl-propanamide
To a solution of 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine (0.03 g, 0.14 mmol) in DMF (1.0 mL) was added 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-2-methyl-propanoic acid (0.037 g, 0.14 mmol), followed by diisopropylethylamine (0.042 g, 0.32 mmol) and HATU (0.057 g, 0.15 mmol). After stirring at room temperature for 1 h, the reaction was diluted with water and the aqueous layer was extracted with ethyl acetate (2×5 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude product was purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to give the title compound as a white solid (0.025 g, 0.053 mmol, 39%). 1H NMR (400 MHz, CDCl3) δ 7.91 (d, J=0.6 Hz, 1H), 7.33-7.25 (m, 2H), 7.20-7.10 (m, 2H), 6.61 (s, 1H), 2.92 (m, 1H), 2.37 (s, 3H), 1.97 (s, 6H), 1.03 (d, J=7.1 Hz, 6H); MS: (ES) m/z calculated for C21H22ClF4N5O [M+H]+ 472.1, found 471.9.

reactant | 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine | 0.14 mmol, 0.03 g | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N | C12H14FN3
reactant | 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-2-methyl-propanoic acid | 0.14 mmol, 0.037 g | ClC=1C(=NN(C1C)C(C(=O)O)(C)C)C(F)(F)F | C9H10ClF3N2O2
reactant | diisopropylethylamine | 0.32 mmol, 0.042 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 0.057 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-methyl-propanamide | 0.053 mmol, 0.025 g, 39% | ClC=1C(=NN(C1C)C(C(=O)NC=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)(C)C)C(F)(F)F | C21H22ClF4N5O
